US06262074B1
Step 2: 5-hydroxy-l-methyl-4-[(8-methylquinolin-5-yl)carbonyl]-pyrazole
At 0° C., 1.70 g of 8-methylquinoline-5-carbonyl chloride were added to 0.81 g of 5-hydroxy-1-methylpyrazole and 0.92 g of triethylamine in 30 ml of acetonitrile. The reaction mixture was stirred for 3 hours at room temperature and then taken up in ethyl acetate and washed with aqueous sodium carbonate solution, and the organic phase was then dried and concentrated. The residue was treated with 10 ml of dioxane and 1.71 g of dry potassium carbonate and heated under reflux for 14 hours. After cooling, water was added and the aqueous phase was washed with ethyl acetate and acidified with 2N hydrochloric acid. The precipitate was filtered off under suction and the acidified aqueous phase was extracted with ethyl acetate. This organic phase was dried and concentrated. The residue and the precipitate were combined.

reactant | 8-methylquinoline-5-carbonyl chloride | 1.70 g | CC1=CC=C(C=2C=CC=NC12)C(=O)Cl | C11H8ClNO
reactant | 5-hydroxy-1-methylpyrazole | 0.81 g | OC1=CC=NN1C | C4H6N2O
reactant | triethylamine | 0.92 g | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-hydroxy-l-methyl-4-[(8-methylquinolin-5-yl)carbonyl]-pyrazole | OC1=C(C=NN1C)C(=O)C1=C2C=CC=NC2=C(C=C1)C | C15H13N3O2
